US04472433
(1) Preparation of 2-oxo-7-phenylthioindoline
A suspension of iron powder (1.5 g.) and ammonium chloride (0.15 g.) in a mixture of ethanol (7 ml.) and water (7ml.) was refluxed with stirring. Ethyl 2-(2-nitro-3-phenylthiophenyl)acetate (1.6 g.) was added to the suspension, and the mixture was refluxed for 7 hours and filtered. The filtrate was evaporated to dryness under reduced pressure, and residue was dissolved in ethyl acetate. The solution was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The oily residue was dissolved in ethanol (10 ml.) and heated with conc. hydrochloric acid (0.1 ml.). The precipitating crystals were collected by filtration and dried to give the captioned compound (0.9 g.). mp 160° to 161° C.

reactant | ammonium chloride | 0.15 g | [Cl-].[NH4+]
reactant | Ethyl 2-(2-nitro-3-phenylthiophenyl)acetate | 1.6 g | [N+](=O)([O-])C1=C(C=CC=C1SC1=CC=CC=C1)CC(=O)OCC | C16H15NO4S
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | 7ml | O | H2O
catalyst | iron | 1.5 g | [Fe] | Fe
product | 2-oxo-7-phenylthioindoline | O=C1NC2=C(C=CC=C2C1)SC1=CC=CC=C1 | C14H11NOS
